US07449475B2
Morpholin-2-ylmethyl trifluoroacetate (trifluoroacetic acid salt)
Tert-Butyl 2-(hydroxymethyl)-4-morpholinecarboxylate (5.13 g, 23.61 mmol) was treated with CF3CO2H (20 mL) in CH2Cl2 (50 mL) at room temperature for 3 h. The volatiles were removed in vacuo to give the subtitled compound (7.6 g).

reactant | Tert-Butyl 2-(hydroxymethyl)-4-morpholinecarboxylate | 23.61 mmol, 5.13 g | OCC1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | CF3CO2H | 20 mL | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Morpholin-2-ylmethyl trifluoroacetate | 7.6 g | FC(C(=O)OCC1CNCCO1)(F)F | C7H10F3NO3
